US05250669
(1) Synthesis of 1,7-di(1-naphthyl)-3,5-heptanedione
Using 2,4-pentanedione (59.6 g, 0.595 mol) and 1-chloromethylnaphthalene (245 g), the reaction was carried out in the same manner as described in Example 17, (1), and the residual oil (200 g) was chromatographed on silica gel (Wako Gel C-200) with n-hexane/benzene (1:4) as eluent to give the title compound as a yellow oil which was an ca 1:6 mixture of Keto/Enol as seen by the methylene singlet at δ3.33 ppm and the methine singlet at δ5.27 ppm in the 1HNMR spectrum; yield: 71 g.

reactant | 2,4-pentanedione | 0.595 mol, 59.6 g | CC(CC(C)=O)=O | C5H8O2
reactant | 1-chloromethylnaphthalene | 245 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
product | 1,7-di(1-naphthyl)-3,5-heptanedione | C1(=CC=CC2=CC=CC=C12)CCC(CC(CCC1=CC=CC2=CC=CC=C12)=O)=O | C27H24O2
